US04740602
A solution of 3.84 g of 3-[4-(6-formyl-3-indolyl)butyl]-1,2,3,4,5,6-hexahydrobenzo[f]isoquinoline in 40 ml of THF is added dropwise to a stirred suspension of 0.57 g of lithium aluminium hydride in 20 ml of THF under N2. The mixture is then stirred at 20° for 1 hour, and decomposition is carried out with dilute sodium hydroxide solution and then with water, and the mixture is filtered and the usual working up is carried out, and 3-[4-(6-hydroxymethyl-3-indolyl)butyl]-1,2,3,4,5,6-hexahydrobenzo[f]isoquinoline is obtained.

reactant | 3-[4-(6-formyl-3-indolyl)butyl]-1,2,3,4,5,6-hexahydrobenzo[f]isoquinoline | 3.84 g | C(=O)C1=CC=C2C(=CNC2=C1)CCCCN1CC=2CCC3=C(C2CC1)C=CC=C3 | C26H28N2O
reactant | lithium aluminium hydride | 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-[4-(6-hydroxymethyl-3-indolyl)butyl]-1,2,3,4,5,6-hexahydrobenzo[f]isoquinoline | OCC1=CC=C2C(=CNC2=C1)CCCCN1CC=2CCC3=C(C2CC1)C=CC=C3 | C26H30N2O
